US07622583B2
A mixture of 4-chloro-N-{5-chloro-2-[(2-chloro-5-pyrazol-1-yl-phenyl)-hydroxy-methyl]-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (400 mg, 0.64 mol), Dess-Martin periodinane (409 mg, 0.96 mmol), in DCM was stirred at RT for 2 hours and then purified by flash column to give 4-chloro-N-[5-chloro-2-(2-chloro-5-pyrazol-1-yl-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide.

reactant | 4-chloro-N-{5-chloro-2-[(2-chloro-5-pyrazol-1-yl-phenyl)-hydroxy-methyl]-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.64 mol, 400 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(O)C1=C(C=CC(=C1)N1N=CC=C1)Cl)C(F)(F)F | C24H18Cl3F3N4O4S
reactant | Dess-Martin periodinane | 0.96 mmol, 409 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-[5-chloro-2-(2-chloro-5-pyrazol-1-yl-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(C1=C(C=CC(=C1)N1N=CC=C1)Cl)=O)C(F)(F)F | C24H16Cl3F3N4O4S
